US06869956B2
2-chloro-3-(propargylamino)benzo[g]quinoxaline
A mixture of 2,3-dichlorobenzo[g]quinoxaline (0.634 g, 2.55 mmol), propargylamine (0.21 ml, 3.05 mmol) and TEA (0.53 mL, 3.83 mmol) in 15 mL of dioxane was heated to reflux for 4.5 hours. After evaporating the resulting mixture under vacuum, the crude product was chromatographed (CH2Cl2) to afford the title compound as a yellow solid (0.496 g, 73%); mp 169-172° C.; IR (KBr, cm−1) 3412, 3283, 3235, 1570, 1508, 1335; 1H NMR (DMSO) δ 8.44 (s, 1H), 8.26 (s, 1H), 8.16-8.06 (m, 3H), 7.58-7.54 (m, 1H), 7.51-7.48 (m, 1H), 4.28 (dd, J=6.1, 2.5, 2H), 3.12 (t, J=2.5, 1H); LC/MS 97.8% (220 nm), m/z (M+H+) 268.

reactant | 2,3-dichlorobenzo[g]quinoxaline | 2.55 mmol, 0.634 g | ClC=1C(=NC=2C=C3C(=CC2N1)C=CC=C3)Cl | C12H6Cl2N2
reactant | propargylamine | 3.05 mmol, 0.21 ml | C(C#C)N | C3H5N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-3-(propargylamino)benzo[g]quinoxaline | 0.496 g, 73% | ClC=1C(=NC=2C=C3C(=CC2N1)C=CC=C3)NCC#C | C15H10ClN3
